US04753951
To a stirred suspension of 1.40 g of 4-chloro-3-nitroquinoline in 30 ml of dry ethanol is introduced excess amount of gaseous ethylamine at room temperature for 3 hours. Treatment of the reaction mixture as in Example 98 yielded 1.41 g (97%) of 4-ethylamino-3-nitroquinoline. Recrystallization from the ethyl acetate-n-hexane affords yellow crystals melting at 151°-152° C.

reactant | 4-chloro-3-nitroquinoline | 1.40 g | ClC1=C(C=NC2=CC=CC=C12)[N+](=O)[O-] | C9H5ClN2O2
reactant | ethylamine | C(C)N | C2H7N
solvent | ethanol | 30 ml | C(C)O | C2H6O
product | 4-ethylamino-3-nitroquinoline | 1.41 g, 97% | C(C)NC1=C(C=NC2=CC=CC=C12)[N+](=O)[O-] | C11H11N3O2
